US04999362
A stirred ethanolic solution (200 ml) of an alkaline alkoxide, for example sodium ethoxide (20 g), is saturated, at +10° C., with dry hydrogen sulfide, cooled to -15° C., and added with a solution of 2-chloromethyl-3,5-dicarboethoxy-4-(m-nitrophenyl) -6-methyl-1,4-dihydropyridine (25 g) in DME (70 ml). After one hour, the reaction mixture is warmed to 0° C., acidified with H2SO4 (10% water solution; 100 ml) and diluted with water (1400 ml). The precipitate is filtered off, dried in vacuum, and recrystallized from Et2O to give 23 g of 2-mercaptomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl) -6-methyl-1,4-dihydropyridine, m.p. 145°-147° C.

reactant | sodium ethoxide | 20 g | [O-]CC.[Na+]
reactant | hydrogen sulfide | S | H2S
reactant | 2-chloromethyl-3,5-dicarboethoxy-4-(m-nitrophenyl) -6-methyl-1,4-dihydropyridine | 25 g | ClCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H21ClN2O6
reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
solvent | DME | 70 ml | COCCOC | C4H10O2
solvent | water | 1400 ml | O | H2O
product | 2-mercaptomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl) -6-methyl-1,4-dihydropyridine | 23 g | SCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6S
